US06664427B1
The 2′-isopropyl-salicylanilide was prepared by condensing phenyl salicylate with 2-isopropylaniline then purified as described in Example 2a. The ligand mixture was then prepared from 2′-isopropyl-salicylanilide and binaphthol using the procedure described in Example 2a. 31P NMR (121.77 MHz): several peaks between 117.1-120.9 ppm.

reactant | phenyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC1=CC=CC=C1 | C13H10O3
reactant | 2-isopropylaniline | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
product | 2′-isopropyl-salicylanilide | C(C)(C)C1=C(NC(C=2C(O)=CC=CC2)=O)C=CC=C1 | C16H17NO2
